US04539150
Preparation of N-benzyloxycarbonyl-S-(2-aminophenyl)-β-phenylcysteine
20 g of α-benzyloxycarbonylamino-β-phenylacrylic acid and 10 g of o-aminobenzenethiol were mixed with 40 ml of ethanol and the resulting mixture was heated under reflux for 20 hours. After cooling to room temperature, the precipitated crystalline component was separated by filtration and washed with ethanol to obtain 2.7 g of crystals. This product decomposed at 198° C.

reactant | α-benzyloxycarbonylamino-β-phenylacrylic acid | 20 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)=CC1=CC=CC=C1 | C17H15NO4
reactant | o-aminobenzenethiol | 10 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-benzyloxycarbonyl-S-(2-aminophenyl)-β-phenylcysteine | 2.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(SC1=C(C=CC=C1)N)C1=CC=CC=C1)C(=O)O | C23H22N2O4S
